US04578381
To 2.7 g of 2-acetylamino-3-(2-quinolon-4-yl)propionic acid was added 30 ml of 20%-hydrochloric acid and the mixture was refluxed for 3 hours. The reaction mixture was concentrated under a reduced pressure to dryness, the residue obtained was recrystallized from ethanol-water to obtain 1.9 g of 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride hydrate in the form of colorless prism-like crystals.

reactant | 2-acetylamino-3-(2-quinolon-4-yl)propionic acid | 2.7 g | C(C)(=O)NC(C(=O)O)CC1=CC(NC2=CC=CC=C12)=O | C14H14N2O4
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride hydrate | 1.9 g | O.Cl.NC(C(=O)O)CC1=CC(NC2=CC=CC=C12)=O | InChI=1S/C12H12N2O3.ClH.H2O/c13-9(12(16)17)5-7-6-11(15)14-10-4-2-1-3-8(7)10;;/h1-4,6,9H,5,13H2,(H,14,15)(H,16,17);1H;1H2
